US07084123B2
To a suspension of 4-[(4-ethylthiophenyl)methyl]-1,2-dihydro-5-methyl-3H-pyrazol-3-one (1.6 g) and acetobromo-α-D-glucose (2.9 g) in tetrahydrofuran (30 mL) was added silver carbonate (2.1 g), and the mixture was stirred under shading the light at 60° C. overnight. The reaction mixture was purified by column chromatography on aminopropyl silica gel (eluent: tetrahydrofuran) and further column chromatography on silica gel (eluent: hexane/ethyl acetate=1/3) to give 4-[(4-ethylthiophenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (1.4 g).

reactant | 4-[(4-ethylthiophenyl)methyl]-1,2-dihydro-5-methyl-3H-pyrazol-3-one | 1.6 g | C(C)SC1=CC=C(C=C1)CC=1C(NNC1C)=O | C13H16N2OS
reactant | acetobromo-α-D-glucose | 2.9 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | silver carbonate | 2.1 g | C([O-])([O-])=O.[Ag+2]
product | 4-[(4-ethylthiophenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 1.4 g | C(C)SC1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C27H34N2O10S
